US20010001799A1
The methyl (RS)-(4-carbamimidoyl-phenylamino)-(2-carbamoylmethoxy-5-ethoxy-phenyl)-acetate was saponified in THF with 1N LiOH to give (RS)-(4-carbamimidoyl-phenylamino)-(2-carbamoylmethoxy-5-ethoxy-phenyl)-acetic acid and purified by trituration in water and dilute ammonia; m.p. 266° C., MS: 387 (M+H)+.

reactant | methyl (RS)-(4-carbamimidoyl-phenylamino)-(2-carbamoylmethoxy-5-ethoxy-phenyl)-acetate | C(N)(=N)C1=CC=C(C=C1)NC(C(=O)OC)C1=C(C=CC(=C1)OCC)OCC(N)=O | C20H24N4O5
reactant | LiOH | 1N | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
product | (RS)-(4-carbamimidoyl-phenylamino)-(2-carbamoylmethoxy-5-ethoxy-phenyl)-acetic acid | C(N)(=N)C1=CC=C(C=C1)NC(C(=O)O)C1=C(C=CC(=C1)OCC)OCC(N)=O | C19H22N4O5
